US07547782B2
D) 4-(4-(1H-Pyrrolo[2,3-b]pyridin-4-yloxy)-3-fluorophenylamino)-N-(2,4-difluorophenyl)nicotinamide, hydrochloride salt
A homogeneous mixture of 4-(1H-pyrrolo[2,3-b]pyridin-4-yloxy)-3-fluorobenzenamine (0.039 g, 0.16 mmol), 4-chloro-N-(2,4-difluorophenyl)nicotinamide (0.043 g, 0.16 mmol) and p-toluenesulfonic acid monohydrate (Aldrich, 0.024 g, 0.13 mmol), in anhydrous NMP (1 mL), was microwaved in a CEM Explorer PLS microwave system (300 W). The temperature was measured with an IR temperature sensor and maintained at 160° C. After one hour, the reaction mixture was partitioned between chloroform and brine. The aqueous layer was extracted twice with chloroform, and the combined organic layers were concentrated in vacuo. The resultant residue was purified by preparative HPLC (YMC S10 ODS, 30×500 mm, 30 minute gradient from 34% to 90% aqueous methanol with 0.1% TFA). The appropriate fractions were combined and lyophilized to an off-white solid that was dissolved in anhydrous THF (1 mL), cooled to 0° C. and treated with HCl (4 N in dioxane, 1.0 mL, 4.0 mmol). The reaction mixture was stirred for ten minutes, before being lyophilized to afford the title compound (0.015 g, 18%) as an off-white solid.

reactant | 4-(1H-pyrrolo[2,3-b]pyridin-4-yloxy)-3-fluorobenzenamine | 0.16 mmol, 0.039 g | N1C=CC=2C1=NC=CC2OC2=C(C=C(C=C2)N)F | C13H10FN3O
reactant | 4-chloro-N-(2,4-difluorophenyl)nicotinamide | 0.16 mmol, 0.043 g | ClC1=CC=NC=C1C(=O)NC1=C(C=C(C=C1)F)F | C12H7ClF2N2O
reactant | p-toluenesulfonic acid monohydrate | 0.13 mmol, 0.024 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | HCl | 4.0 mmol, 4 N, 1.0 mL | Cl | ClH
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
product | 4-(4-(1H-Pyrrolo[2,3-b]pyridin-4-yloxy)-3-fluorophenylamino)-N-(2,4-difluorophenyl)nicotinamide, hydrochloride salt | 0.015 g, 18% | Cl.N1C=CC=2C1=NC=CC2OC2=C(C=C(C=C2)NC2=CC=NC=C2C(=O)NC2=C(C=C(C=C2)F)F)F | InChI=1S/C25H16F3N5O2.ClH/c26-14-1-3-21(18(27)11-14)33-25(34)17-13-29-8-6-20(17)32-15-2-4-23(19(28)12-15)35-22-7-10-31-24-16(22)5-9-30-24;/h1-13H,(H,29,32)(H,30,31)(H,33,34);1H
